US06951888B2
(b) (2,4,6-trimethylphenyl)acetonitrile
66 g of sodium cyanide is refluxed in 100 mL water and 140 mL of ethanol with stirring, until a clear solution is formed. 136 g of 2-chloromethyl-1,3,5-trimethylbenzene is slowly added dropwise to this solution and the mixture is refluxed for 3 hours with stirring. It is diluted with 1 L of water and extracted three times with 200 mL of benzene. The combined organic phases are washed with water and the solvent is distilled off under reduced pressure. The residue is fractionally distilled. Yield: 92 g (72%); bp15: 145° C.-153° C.

reactant | sodium cyanide | 66 g | [C-]#N.[Na+]
reactant | ethanol | 140 mL | C(C)O | C2H6O
reactant | 2-chloromethyl-1,3,5-trimethylbenzene | 136 g | ClCC1=C(C=C(C=C1C)C)C | C10H13Cl
solvent | water | 100 mL | O | H2O
solvent | water | 1 L | O | H2O
product | (2,4,6-trimethylphenyl)acetonitrile | CC1=C(C(=CC(=C1)C)C)CC#N | C11H13N
